US04210754
13 G. of N-(2-aminoethyl)-morpholine are added dropwise to a solution of 17.5 g. of p-chlorobenzoyl chloride in 100 ml. of diethyl ether, with stirring and cooling with ice-water. After complete addition, the mixture is stirred for 2 hours at room temperature. The crystalline product is removed by filtration and washed with diethyl ether. 9.1 G. of p-chloro-N-(2-morpholinoethyl)-benzamide hydrochloride, melting point 207° C. to 208° C., are obtained after recrystallization from isopropanol.

reactant | N-(2-aminoethyl)-morpholine | NCCN1CCOCC1 | C6H14N2O
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | p-chloro-N-(2-morpholinoethyl)-benzamide hydrochloride | Cl.ClC1=CC=C(C(=O)NCCN2CCOCC2)C=C1 | InChI=1S/C13H17ClN2O2.ClH/c14-12-3-1-11(2-4-12)13(17)15-5-6-16-7-9-18-10-8-16;/h1-4H,5-10H2,(H,15,17);1H
